US05744471
7-Chloro-1-hydroxy-3-(4-methylphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]quinoline-4,10-dione.
To a stirred suspension of dimethyl 7-chloro-4-hydroxyquinoline-2,3-dicarboxylate (3.90 g, 13.3 mM) and 4-methylphenyl hydrazine hydrochloride (14.8 g, 93.2 mM) in ethanol (140 mL) was added triethylamine (14.8 mL, 106.4 mM). The resulting brown solution was refluxed for 16 hours during which time a precipitate formed.The resulting suspension was cooled to room temperature and filtered to give the 4-methylphenyl hydrazine salt of the title compound as a grey powder (2.30 g). This material was refluxed in glacial acetic acid (45 mL)for 2 hours and cooled to room temperature. The resulting brown suspension was filtered to give the title compound (1.60 g, 34%) as a tan powder, mp 380°-382° C.; MS(CI): 354 (M+H). Analysis for C18 H12ClN3O3 ·0.2H2O: Calculated: C, 60.49; H, 3.50; N, 11.76; Found: C, 60.66; H, 3.26; N, 11.76; NMR: 13.81 (v br s,1H exchangeable), 8.39 (s, 1H exchangeable), 8.22 (d, J=8.58 Hz, 1H), 7.89 (d, J=1.97 Hz, 1H), 7.58 (dd, J=1.97, 8.58 Hz, 1H), 6.98 (d, J=8.28 Hz, 2H), 6.73 (d, J=8.28 Hz, 2H), 2.19 (s, 3H).

reactant | dimethyl 7-chloro-4-hydroxyquinoline-2,3-dicarboxylate | 13.3 mM, 3.90 g | ClC1=CC=C2C(=C(C(=NC2=C1)C(=O)OC)C(=O)OC)O | C13H10ClNO5
reactant | 4-methylphenyl hydrazine hydrochloride | 93.2 mM, 14.8 g | Cl.CC1=CC=C(C=C1)NN
reactant | triethylamine | 106.4 mM, 14.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 140 mL | C(C)O | C2H6O
product | 7-Chloro-1-hydroxy-3-(4-methylphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]quinoline-4,10-dione | 2.30 g | ClC=1C=CC=2C(C3=C(NC2C1)C(N(N=C3O)C3=CC=C(C=C3)C)=O)=O | C18H12ClN3O3
